US07842696B2
Pd/c (528 mg) was added to a stirred solution of 1-(3-phenyl-propionyl)-piperidine-4-carboxylic acid benzyl ester (2.64 gm, 7.5 mmol) in MeOH (52.8 mL) and continued the stirring under hydrogen atmosphere for 3 hrs. The mixture was filtered over a bed of celite. The celite was washed with MeOH and the filtrate was concentrated under reduced pressure to afford 1.17 g (59.6% yield) of 1-(3-phenyl-propionyl)-piperidine-4-carboxylic acid. LCMS Purity: 93.56%.

reactant | 1-(3-phenyl-propionyl)-piperidine-4-carboxylic acid benzyl ester | 7.5 mmol, 2.64 gm | C(C1=CC=CC=C1)OC(=O)C1CCN(CC1)C(CCC1=CC=CC=C1)=O | C22H25NO3
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 52.8 mL | CO | CH4O
catalyst | Pd | [Pd] | Pd
product | 1-(3-phenyl-propionyl)-piperidine-4-carboxylic acid | 1.17 g, 59.6% yield | C1(=CC=CC=C1)CCC(=O)N1CCC(CC1)C(=O)O | C15H19NO3
